US07691902B2
1-(Benzo[d][1,3]dioxol-5-yl)-N-(4-methyl-3-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl)cyclopropanecarboxamide (0.084 g, 0.20 mmol), 4-bromo-2-chlorobenzonitrile (0.043 g, 0.20 mmol), aqueous potassium carbonate (520 μL, 1M), FibreCat 1007 (7 mg), and DMF (1 mL) were combined. The mixture was heated at 80° C. for 18 hours. After cooling, the mixture was filtered and purified by preparative HPLC to provide 1-(benzo[d][1,3]dioxol-5-yl)-N-(3′-chloro-4′-cyano-6-methylbiphenyl-3-yl)cyclopropanecarboxamide.

reactant | 1-(Benzo[d][1,3]dioxol-5-yl)-N-(4-methyl-3-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl)cyclopropanecarboxamide | 0.20 mmol, 0.084 g | O1COC2=C1C=CC(=C2)C2(CC2)C(=O)NC2=CC(=C(C=C2)C)B2OC(C(O2)(C)C)(C)C | C24H28BNO5
reactant | 4-bromo-2-chlorobenzonitrile | 0.20 mmol, 0.043 g | BrC1=CC(=C(C#N)C=C1)Cl | C7H3BrClN
reactant | potassium carbonate | 1M, 520 μL | C([O-])([O-])=O.[K+].[K+]
solvent | DMF | 1 mL | CN(C)C=O | C3H7NO
product | 1-(benzo[d][1,3]dioxol-5-yl)-N-(3′-chloro-4′-cyano-6-methylbiphenyl-3-yl)cyclopropanecarboxamide | O1COC2=C1C=CC(=C2)C2(CC2)C(=O)NC=2C=C(C(=CC2)C)C2=CC(=C(C=C2)C#N)Cl | C25H19ClN2O3
